US07915267B2
6-cyano-4-oxo-N-[(3-{[(1H-1,2,4-triazol-3-ylacetyl)amino]methyl}phenyl)methyl]-3,4-dihydroquinazoline-2-carboxamide
A solution of N-{[3-(aminomethyl)phenyl]methyl}-6-cyano-4-oxo-3,4-dihydroquinazoline-2-carboxamide hydrochloride obtained in Reference Example 47 (170 mg, 0.460 mmol), 1H-1,2,4-triazol-3-ylacetic acid obtained in Reference Example 15 (70.0 mg, 0.551 mmol), diisopropylethylamine (0.079 mL, 0.460 mmol), 1-[3-(dimethylamino)propyl]-3-ethyl-carbodiimide hydrochloride (106 mg, 0.550 mmol) and 1-hydroxybenzotriazole (74.0 mg, 0.550 mmol) in DMF (10 mL) was stirred at 40° C. for 15 hr. The reaction mixture was concentrated under reduced pressure, and water was added to the residue. The resulting solid was collected by filtration, washed with water and IPE, and dried. The obtained crude crystals were recrystallized from ethyl acetate-IPE to give the title compound as a white powder (49.4 mg, 24%).

reactant | N-{[3-(aminomethyl)phenyl]methyl}-6-cyano-4-oxo-3,4-dihydroquinazoline-2-carboxamide hydrochloride | Cl.NCC=1C=C(C=CC1)CNC(=O)C1=NC2=CC=C(C=C2C(N1)=O)C#N
reactant | 1H-1,2,4-triazol-3-ylacetic acid | N1N=C(N=C1)CC(=O)O | C4H5N3O2
reactant | diisopropylethylamine | 0.460 mmol, 0.079 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-[3-(dimethylamino)propyl]-3-ethyl-carbodiimide hydrochloride | 0.550 mmol, 106 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.550 mmol, 74.0 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 6-cyano-4-oxo-N-[(3-{[(1H-1,2,4-triazol-3-ylacetyl)amino]methyl}phenyl)methyl]-3,4-dihydroquinazoline-2-carboxamide | 49.4 mg, 24% | C(#N)C=1C=C2C(NC(=NC2=CC1)C(=O)NCC1=CC(=CC=C1)CNC(CC1=NNC=N1)=O)=O | C22H18N8O3
